US05137907
To a mixture of anhydrous N,N-dimethylformamide (30 ml) and sodium hydride (60% oil suspension; 0.70 g), pyrazole (1.19 g) was added, and the resultant mixture was stirred for 30 minutes. A solution of 3-[4-(3,5-difluorophenoxy)phenoxy]propyl bromide (5.00 g) in anhydrous N,N-dimethylformamide (20 ml) was dropwise added thereto, followed by stirring at room temperature for 5 hours. The reaction mixture was diluted with ethyl acetate (200 ml), washed with a saturated aqueous ammonium chloride solution two times, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily substance thus obtained was subjected to column chromatography to give 4.20 g of 1-{3-[4-(3,5-difluorophenoxy)phenoxy]propyl}pyrazole as a colorless oil. nD23.5 1.5746.

reactant | sodium hydride | 0.70 g | [H-].[Na+]
reactant | pyrazole | 1.19 g | N1N=CC=C1 | C3H4N2
reactant | 3-[4-(3,5-difluorophenoxy)phenoxy]propyl bromide | 5.00 g | FC=1C=C(OC2=CC=C(OCCCBr)C=C2)C=C(C1)F | C15H13BrF2O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-{3-[4-(3,5-difluorophenoxy)phenoxy]propyl}pyrazole | 4.20 g | FC=1C=C(OC2=CC=C(OCCCN3N=CC=C3)C=C2)C=C(C1)F | C18H16F2N2O2
